US04906621
A solution of 1.5 g of 3-diethylphosphonopyridine, Bull. Chem. Soc. Jap. 55, 909 (1982), in 20 ml of methylene chloride is treated with 2.33 g m-chloroperbenzoic acid at room temperature. The reaction mixture is allowed to stir at room temperature overnight, then concentrated under vacuum. The residue is partitioned between ether and water, the aqueous layer is concentrated under vacuum to afford 3-(diethylphosphono)-pyridine-N-oxide as a yellow oil.

reactant | 3-diethylphosphonopyridine | 1.5 g | C(C)OP(=O)(OCC)C=1C=NC=CC1 | C9H14NO3P
reactant | m-chloroperbenzoic acid | 2.33 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | 3-(diethylphosphono)-pyridine-N-oxide | C(C)OP(=O)(OCC)C=1C=[N+](C=CC1)[O-] | C9H14NO4P
